US07709481B2
sodium borohydride (1.2 g, 31.2 mmol) is carefully added to a solution of 2-Bromo-4-methyl-thiazole-5-carboxylic acid ethyl ester (3.6 g, 15.6 mmol) in ethanol (100 mL) and water (1 mL) and stirred at room temperature for twelve hours. The solvent is carefully removed under reduced pressure, the residue is taken up in ethylacetate and washed with water. The organic phase is separated and dried over MgSO4. The organic solvent is removed under reduced pressure to give 3.2 g of (2-Bromo-4-methyl-thiazol-5-yl)-methanol, which was used without further purification.

reactant | sodium borohydride | 31.2 mmol, 1.2 g | [BH4-].[Na+]
reactant | 2-Bromo-4-methyl-thiazole-5-carboxylic acid ethyl ester | 15.6 mmol, 3.6 g | C(C)OC(=O)C1=C(N=C(S1)Br)C | C7H8BrNO2S
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | (2-Bromo-4-methyl-thiazol-5-yl)-methanol | 3.2 g | BrC=1SC(=C(N1)C)CO | C5H6BrNOS
